datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:72][C:61](/[C:10](F)=[C:11](\[O-:12])[O:82]CC)=[O:62].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([C:10](F)([C:11](=[O:12])[O:82]CC)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]1)=[O:62] 10,11=10,20;12=11,12"
C1=CC=C(C/[N:10]=[CH:62]/C2=CC=CC=C2)C=C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20](/[N+:10](CC2=CC=CC=C2)=[CH:62]\C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.NC[C@@H]1CCC[NH:10]1>>NC[C@@H]1CCC[NH+:10]1[C:20]([O-:21])=[N:31]C1=CC=CC=C1 10=20;20,21=21"
"CC(C)(C)C[C:11](C)=[CH2:10].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>CC(C)(C)C[C+:11](C)[CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[CH:33]=[C:34]1[N+](=O)[O-] 10,11=10,20;20,21=21,22;22,23=23"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.C1=CC=C(CC2C[O:72][C:61](=[O:62])[N-:10]2)C=C1>>C1=CC=C(CC2C[O:72][C:61](=[O:62])[N:10]2[CH:20]([C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)C=C1 10=20
"CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]1=[N+:42]([O-])O[N:35]=[C:34]21 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"[N-:10]=[N+:61]=[N-:62].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C=C[CH:20]([N:10]=[N+:61]=[N-:62])C1C2C43 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:13](C)=[CH:12][CH:11]=[CH2:10]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][CH:11]=[CH:12][C+:13](C)C)[C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[C:10](C)=[CH:11][N:12]1CCOCC1.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[C:10](C)([CH:11]=[N+:12]1CCOCC1)[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([CH:20]([CH:21]=[C:22](C3=CC=CC=C3)[O-:23])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20;20,21=21,22;22,23=23"
"C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[Si:63](C)(C)[O:12]/[C:11]1=[CH:10]/CCCCCC1>>C[C:22]1=[C:21]([CH:20]([CH:10]2CCCCCC[C:11]2=[O+:12][Si:63](C)(C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>CC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)S1.CC1=CC=[C:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)S1 10,11=10,20;12=11,12"
"CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23].[H:10][Ge:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>CC(C)(C)[O:33][C:22](=[N:21][N:20]([H:10])[C:41](=[O:42])[O:43]C(C)(C)C)[O-:23].[Ge+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>C1=CC=C([Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH+:11][CH2:10][CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1 10,11=10,20"
